US07700786B2
Triethylamine (0.17 g, 1.7 mmol) and isopropyl isocyanate (0.14 g, 1.7 mmol) were added to a solution of 5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole (0.36 g, 1.5 mmol) in ethyl acetate (5 ml), and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml) and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/15), to give a colorless viscous substance of N-isopropyl-5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.15 g, yield: 30.6%). 1H-NMR (CDCl3, TMS, ppm): δ 1.25 (d, J=6.6 Hz, 6H), 2.60 (d, J=0.6 Hz, 3H), 4.05 (sep, J=6.6 and 6.6 Hz, 1H), 5.71 (q, J=0.6 Hz, 1H), 6.81 (br d, J=6.6 Hz, 1H), 7.30-7.35 (m, 1H), 7.40-7.52 (m, 3H).

reactant | Triethylamine | 1.7 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl isocyanate | 1.7 mmol, 0.14 g | C(C)(C)N=C=O | C4H7NO
reactant | 5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole | 1.5 mmol, 0.36 g | CC1=CC(=NN1)OC1=CC(=CC=C1)C(F)(F)F | C11H9F3N2O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-isopropyl-5-methyl-3-(3-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 0.15 g, yield: 30.6% | C(C)(C)NC(=O)N1N=C(C=C1C)OC1=CC(=CC=C1)C(F)(F)F | C15H16F3N3O2
